US04661594
If 1,3-bis(2-chloro-5-ethyl-1,3,2-dioxaphosphorinan-5-yl)-2-oxapropane is reacted with 4-butylamino-2,2,6,6-tetramethylpiperidine in a procedure analogous to Example 2, 1,3-bis[2-(N-butyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino)-5-ethyl-1,3,2-dioxaphosphorinan-5-yl]-2-oxapropane is obtained as a viscous resin (Compound No. 22, formula below, R3 =H); FD-MS: 730 (M+).

reactant | 1,3-bis(2-chloro-5-ethyl-1,3,2-dioxaphosphorinan-5-yl)-2-oxapropane | ClP1OCC(CO1)(CC)COCC1(COP(OC1)Cl)CC | C12H22Cl2O5P2
reactant | 4-butylamino-2,2,6,6-tetramethylpiperidine | C(CCC)NC1CC(NC(C1)(C)C)(C)C | C13H28N2
product | 1,3-bis[2-(N-butyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino)-5-ethyl-1,3,2-dioxaphosphorinan-5-yl]-2-oxapropane | C(CCC)N(C1CC(NC(C1)(C)C)(C)C)P1OCC(CO1)(CC)COCC1(COP(OC1)N(CCCC)C1CC(NC(C1)(C)C)(C)C)CC | C38H76N4O5P2
